US06303627B1
4-(6-chlorobenzothiazol -2-yl) piperidine 1-tert -butoxycarbonyl-4-(6-chlorobenzothiazol-2-yl)piperidine
A mixture of 0.939 gm (2.7 mMol) 1-tert-butoxycarbonyl-4-(6-chlorobenzothiazol-2-yl)-1,2,3,6-tetrahydropyridine and a catalytic amount of platinum oxide in 20 mL methanol was stirred at room temperature under about 1 atmosphere of hydrogen for about 3 hours. The reaction mixture was concentrated under reduced pressure, the residue dissolved in a minimal volume of ethyl acetate, and the mixture filtered through a bed of flash silica gel, eluting with 1:1 hexane:ethyl acetate. The filtrate was concentrated under reduced pressure to provide 0.663 gm (70%) of the desired compound as a light tan oil.

reactant | 1-tert-butoxycarbonyl-4-(6-chlorobenzothiazol-2-yl)-1,2,3,6-tetrahydropyridine | 2.7 mMol, 0.939 gm | C(C)(C)(C)OC(=O)N1CCC(=CC1)C=1SC2=C(N1)C=CC(=C2)Cl | C17H19ClN2O2S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 mL | CO | CH4O
catalyst | platinum oxide | [Pt]=O
product | 4-(6-chlorobenzothiazol -2-yl) piperidine 1-tert -butoxycarbonyl-4-(6-chlorobenzothiazol-2-yl)piperidine | 0.663 gm, 70% | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1SC2=C(N1)C=CC(=C2)Cl.ClC2=CC1=C(N=C(S1)C1CCNCC1)C=C2 | InChI=1S/C17H21ClN2O2S.C12H13ClN2S/c1-17(2,3)22-16(21)20-8-6-11(7-9-20)15-19-13-5-4-12(18)10-14(13)23-15;13-9-1-2-10-11(7-9)16-12(15-10)8-3-5-14-6-4-8/h4-5,10-11H,6-9H2,1-3H3;1-2,7-8,14H,3-6H2
